US04127405
To 12.3 g of 2-amino-4,6-dimethyl-1,3,5-triazine in 200 ml of acetonitrile was added with stirring 21.7 g of 2-chlorobenzenesulfonyl isocyanate. All of the solid dissolved after the reagents were added and the mixture was then evaporated to dryness. The solid residue was triturated with ethyl ether and isolated by filtration to give impure N-[(4,6-dimethyl-1,3,5-triazin-2-yl)aminocarbonyl]-2-chlorobenzenesulfonamide melting at 115°-118° C. The nuclear magnetic resonance absorption spectrum of this product, in trifluoroacetic acid, showed singlet peaks at 2.69 and 2.9 parts per million.

reactant | 2-amino-4,6-dimethyl-1,3,5-triazine | 12.3 g | NC1=NC(=NC(=N1)C)C | C5H8N4
reactant | 2-chlorobenzenesulfonyl isocyanate | 21.7 g | ClC1=C(C=CC=C1)S(=O)(=O)N=C=O | C7H4ClNO3S
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | N-[(4,6-dimethyl-1,3,5-triazin-2-yl)aminocarbonyl]-2-chlorobenzenesulfonamide | CC1=NC(=NC(=N1)C)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)Cl | C12H12ClN5O3S
